US06284785B1
(S)-1-(4-Chloro-benzenesulfonyl)-2-(4-fluoro-phenyl)-pyrrolidine
The title compound, white solid, m.p. 120° C. and MS: m/e=339 (Me) was prepared in accordance with the general method of example 1e from (S)-2-(4-fluoro-phenyl)-pyrrolidine and 4-chloro-benzenesulfonyl chloride.

reactant | (S)-2-(4-fluoro-phenyl)-pyrrolidine | FC1=CC=C(C=C1)[C@H]1NCCC1 | C10H12FN
reactant | 4-chloro-benzenesulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | (S)-1-(4-Chloro-benzenesulfonyl)-2-(4-fluoro-phenyl)-pyrrolidine | ClC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCC1)C1=CC=C(C=C1)F | C16H15ClFNO2S
